US04125729
α-(Phenoxy)-α-[p-(phenoxy)phenyl]acetic Acid
A mixture of 3.75 g of methyl α-(phenoxy)-α-[p-(phenoxy)phenyl]acetate in 20 ml of 20% KOH and 5 ml of methanol is refluxed overnight to afford, after acidification, a white solid, mp 144°-146° C. (from chloroform-petroleum ether).

reactant | methyl α-(phenoxy)-α-[p-(phenoxy)phenyl]acetate | 3.75 g | O(C1=CC=CC=C1)C(C(=O)OC)C1=CC=C(C=C1)OC1=CC=CC=C1 | C21H18O4
solvent | KOH | 20 ml | [OH-].[K+]
solvent | methanol | 5 ml | CO | CH4O
product | α-(Phenoxy)-α-[p-(phenoxy)phenyl]acetic Acid | O(C1=CC=CC=C1)C(C(=O)O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C20H16O4
